US05441953
To a solution of 2.5 g (7.8 mmol) of (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid in 50 ml (1.234 mol) of methanol was added 0.125 g (0.66 mmol) of p-toluene sulfonic acid monohydrate. The solution was stirred at room temperature for 2 days and then concentrated to a small volume. The residue was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated to a solid. Recrystallization of this solid from hexane-ethyl acetate gave 2.48 g of methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate, mp 91°-93° C.

reactant | (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | 7.8 mmol, 2.5 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)OC)C)=O | C17H21NO5
reactant | methanol | 1.234 mol, 50 ml | CO | CH4O
catalyst | p-toluene sulfonic acid monohydrate | 0.66 mmol, 0.125 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | methyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 2.48 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H23NO5
